US06664291B2
N-[4-(4-Hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid
To a solution of N-[4-(4-hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid methyl ester (29 mg, 0.08 mmol) in a mixture of MeOH (1 mL) and H2O (1 mL) was added 3 N KOH (0.9 mmol, 0.3 mL). After stirring at RT for 4 h, H2O (10 mL) was added. The solution was washed with EtOAc (2×10 mL) and acidified with 1 N HCl. The aqueous solution was extracted with EtOAc (3×10 mL). The combined organic extracts were washed with brine, dried and concentrated to give the title compound of Step E and Example 1 (20 mg) as a white solid. MS (APCl−) Calc.: 357.1, Found: 356.1 (M−1).

reactant | N-[4-(4-hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid methyl ester | 0.08 mmol, 29 mg | COC(CC(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(C)C)C)=O | C21H25NO5
reactant | KOH | 0.9 mmol, 3 N, 0.3 mL | [OH-].[K+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | N-[4-(4-Hydroxy-3-isopropyl-phenoxy)-3,5-dimethyl-phenyl]-malonamic acid | OC1=C(C=C(OC2=C(C=C(C=C2C)NC(CC(=O)O)=O)C)C=C1)C(C)C | C20H23NO5
